US05916905
Step 1: Preparation of 1-(N,N-dimethylamino)-3-(4-fluorophenyl)-2-[4-(methylthio)phenyl]prop-1-en-3-one
To a 500 ml 2-necked flask fitted with a thermometer and magnetic stirrer was added 20 g (76.9 mMol) of 1-(4-fluorophenyl)-2-(4-(methylthio)phenyl)ethan-1-one, Example 1, Step 3, 18.3 g (154 mMol) of dimethylformamide dimethyl acetal and 50 ml dry dimethylformamide (DMF). The reaction mixture was heated to 75° C. for 3 hours, cooled to room temperature and evaporated to dryness and to recover 26.1 g a yellowish orange solid.

reactant | 1-(4-fluorophenyl)-2-(4-(methylthio)phenyl)ethan-1-one | 76.9 mMol, 20 g | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)SC)=O | C15H13FOS
reactant | dimethylformamide dimethyl acetal | 154 mMol, 18.3 g | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(N,N-dimethylamino)-3-(4-fluorophenyl)-2-[4-(methylthio)phenyl]prop-1-en-3-one | CN(C)C=C(C(=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)SC | C18H18FNOS
